US06518277B1
2-Amino-N-(2-chlorophenyl)-6-methylbenzamide (1g)
Prepared according to Procedure A using 2-amino-6-methylbenzoic acid (2.5 g, 16.5 mmol) and SOCl2 (3.0 mL, 41.3 mmol) in benzene (75 mL), followed by 2-chloroaniline (3.5 mL, 33.0 mmol) and CHCl3 (75 mL). The product was chromatographed in CH2Cl2 to provide 2.19 g of a brown oil (51%). 1H NMR (CDCl3) δ: 8.58 (d, J=8.1 Hz, 1H); 7.99 (br s, 1H); 7.40 (dd, J=1.4, 8.0 Hz, 1H); 7.34 (t, J=7.7 Hz, 1H); 7.11 (t, J=7.8 Hz, 1H); 7.09 (dt, J=1.5, 7.7 Hz, 1H); 6.64 (d, J=7.5 Hz, 1H); 6.59 (d, J=8.1 Hz, 1H); 4.29 (br s, 2H); 2.45 (s, 3H). MS (ES): m/z 283.0 (M+22)

reactant | 2-amino-6-methylbenzoic acid | 16.5 mmol, 2.5 g | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | SOCl2 | 41.3 mmol, 3.0 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 33.0 mmol, 3.5 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 75 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-N-(2-chlorophenyl)-6-methylbenzamide | 2.19 g, 51% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C(=CC=C1)C | C14H13ClN2O
